US08309581B2
c) 2-(4-Cyano-2-fluoro-phenoxymethyl)-benzoyl chloride
To a suspension of 2-(4-cyano-2-fluoro-phenoxymethyl)-benzoic acid (1.0 g, 3.68 mmol) in dichloromethane (15 ml) was added oxalyl chloride (0.45 ml, 4.79 mmol), followed by a drop of N,N-dimethylformamide, and stirred for 12 h at 25° C. The resulting clear solution was evaporated in vacuo and the crude product was used in the next step without any further purification (99%). MS (Turbo Spray): m/z=290.1 (M+H).

reactant | 2-(4-cyano-2-fluoro-phenoxymethyl)-benzoic acid | 3.68 mmol, 1.0 g | C(#N)C1=CC(=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)F | C15H10FNO3
reactant | oxalyl chloride | 4.79 mmol, 0.45 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(4-Cyano-2-fluoro-phenoxymethyl)-benzoyl chloride | C(#N)C1=CC(=C(OCC2=C(C(=O)Cl)C=CC=C2)C=C1)F | C15H9ClFNO2
